US06969710B2
3-Amino-4-(4-methyl-1,4-diazepan-1-yl)-N-phenylbenzenesulfonamide (Scheme 5, Method 5)
4-Chloro-3-nitrobenzenesulfonyl chloride (460 mg, 1.8 mmol) was added to a colorless solution of aniline (250 mg, 2.7 mmol) in CH2Cl2 (10 mL) followed by pyridine (0.80 mL, 10.0 mmol). The resulting orange solution was stirred at room temperature for 30 minutes, after which time the mixture was concentrated under vacuum. Acidification with 2M aq. HCl followed by extraction using EtOAc and drying with Na2SO4 followed by filtration through a plug of silica, gave 500 mg (62%) of 4-chloro-3-nitro-N-phenylbenzenesulfonamide. 1H NMR (CDCl3) δ 8.30 (d, 1H), 7.80 (dd, 2H), 7.55 (d, 1H), 7.20 (m, 5H). MS(negESI) m/z=311(M-H+). 1-Methylhomopiperazine (258 mg, 2.3 mmol) was added to a solution of 4-chloro-3-nitro-N-phenylbenzenesulfonamide obtained as above (500 mg, 1.6 mmol) in CH2Cl2 (20 mL) followed by addition of K2CO3 (310 mg, 2.3 mmol) The reaction mixture was heated to reflux. After 2.5 h, the solution was concentrated under vacuum. After adjusting to pH=6, the product was extracted using EtOAc to give, after drying with Na2SO4 and concentration, 450 mg (72%) of 4-(4-methyl-1,4-diazepan-1-yl)-3-nitro-N-phenylbenzenesulfonamide as an orange oil. 1H NMR (CDCl3) δ 8.15 (d, 1H), 7.60 (dd, 1H), 7.15 (m), 6.95 (d, 1H), 3.45 (m, 2H), 3.30 (m, 2H), 2.75 (m, 2H), 2.60 (m, 2H), 2.35 (s, 3H), 1.95 (m, 2H). MS (posESI) m/z=391(M+H+). To a solution of 4-(4-methyl-1,4-diazepan-1-yl)-3-nitro-N-phenylbenzenesulfonamide (225 mg, 0.58 mmol) in EtOH/THF (4/1, 25 mL) activated Raney-Ni (slurry in EtOH) and hydrazine monohydrate (142 μL, 2.9 mmol) were added. After stirring for 30 minutes at room temperature, the mixture was filtered and the yellow solution concentrated to give yellow oil. The oil was dissolved in a mixture diethyl ether/EtOAc followed by addition of excess of HCl/ether. The resulting precipitate was filtered and washed with ether to give, after drying under vacuum at 40° C., 88 mg (38%) of 3-amino-4-(4-methyl-1,4-diazepan-1-yl)-N-phenylbenzenesulfonamide as a beige solid. Mp 84-85° C. MS (posESI m/z=361 (M+H+). 1H NMR (MeOH-d3) δ7.85 (d, 2H), 7.60 (d, 1H), 7.15 (m, 5H), 3.50 (m, 7H), 3.15 (m, 2H), 3.00 (s, 3H), 2.30 (m, 1H), 2.20 (m, 1H). Anal. (C18H24N4SO2.2HCl) C,H,N,S.

reactant | 1-Methylhomopiperazine | 2.3 mmol, 258 mg | CN1CCNCCC1 | C6H14N2
reactant | 4-chloro-3-nitro-N-phenylbenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O4S
reactant | K2CO3 | 2.3 mmol, 310 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(4-methyl-1,4-diazepan-1-yl)-3-nitro-N-phenylbenzenesulfonamide | 0.58 mmol, 225 mg | CN1CCN(CCC1)C1=C(C=C(C=C1)S(=O)(=O)NC1=CC=CC=C1)[N+](=O)[O-] | C18H22N4O4S
reactant | hydrazine monohydrate | 2.9 mmol, 142 μL | O.NN
reactant | HCl ether | Cl.CCOCC
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH THF | 25 mL | CCO.C1CCOC1
solvent | diethyl ether EtOAc | C(C)OCC.CCOC(=O)C
catalyst | Ni | [Ni] | Ni
product | 3-Amino-4-(4-methyl-1,4-diazepan-1-yl)-N-phenylbenzenesulfonamide | NC=1C=C(C=CC1N1CCN(CCC1)C)S(=O)(=O)NC1=CC=CC=C1 | C18H24N4O2S
